US05232917
2β-Methoxy-3α-hydroxy-5α-pregnan-20-one
2α,3α-Epoxy-5α-pregnan-20-one (325 mg) in 80 mL of methanol was treated with a 1 mL solution of methanol containing drops of concentrated sulfuric acid at room temperature. This mixture was stirred at this temperature for 10 minutes and then poured into a cold saturated solution of sodium bicarbonate and ether. The organic phase was washed several times with small a portion of bicarbonate, brine and dried over potassium carbonate. The concentrated organic phase was tested by TLC for complete reaction. Flash chromatography on silica gel with hexane/ethyl acetate solvent mixture (80:20) produced 209 mg (60% yield).

reactant | 2α,3α-Epoxy-5α-pregnan-20-one | 325 mg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]1(C2)C)C | C21H32O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ether | CCOCC | C4H10O
solvent | methanol | 80 mL | CO | CH4O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2β-Methoxy-3α-hydroxy-5α-pregnan-20-one | 60% yield | CO[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(C1)C)C)O | C22H36O3
